US04469634
A solution of 4.02 g [0.018 mol, B. Pecherer et. al., J. Het. Chem. 8, 779 (1971)] of 3-acetyl-7-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine and 3.78 g (0.054 mol) of sodium thiomethoxide in 37.5 ml of hexamethylphosphorus triamide was heated to 125° for 4 hours. The mixture was cooled in an ice bath and treated with 4.36 g (0.036 mol) of allyl bromide. The mixture was allowed to warm to room temperature and stirred overnight. It was poured into 375 ml of saturated sodium chloride and extracted with ether. The combined ether extracts were washed with water (3×100 ml), dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed over silica gel, eluting with ethyl acetate, to give a solid which was recrystallized from cyclohexane to give off-white crystals; m.p. 73°-74°. This was dissolved in ethanol and aqueous 20% sodium hydroxide and heated at reflux for 24 hours. The solution was poured into ice-water and extracted with methylene chloride. The methylene chloride was dried and evaporated to leave a residue which was taken up in ether and precipitated by the addition of ethereal hydrogen chloride. The resulting salt was removed by filtration and, then, recrystallized from isopropanol to give white crystals of 7-allylthio-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride; m.p. 150°-151°.

reactant | 3-acetyl-7-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.018 mol, 4.02 g | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)Cl | C12H14ClNO
reactant | sodium thiomethoxide | 0.054 mol, 3.78 g | C[S-].[Na+]
reactant | allyl bromide | 0.036 mol, 4.36 g | C(C=C)Br | C3H5Br
reactant | sodium chloride | 375 ml | [Cl-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexamethylphosphorus triamide | 37.5 ml | CN(C)P(N(C)C)N(C)C | C6H18N3P
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 7-allylthio-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.C(C=C)SC1=CC2=C(CCNCC2)C=C1 | InChI=1S/C13H17NS.ClH/c1-2-9-15-13-4-3-11-5-7-14-8-6-12(11)10-13;/h2-4,10,14H,1,5-9H2;1H
